US05856503
29.2 ml of 2-(4-methoxyphenyl)-ethylamine and 34.2 ml of diisopropylethylamine are added dropwise in succession at 0° C. to a solution of 43.9 g of 4-bromobenzoyl chloride in 500 ml of methylene chloride. The reaction mixture is left to warm to room temperature and stirred, subsequently diluted with methylene chloride and treated with saturated sodium hydrogen carbonate solution. The organic phase is washed with saturated sodium hydrogen carbonate solution and then saturated sodium chloride solution, dried and concentrated. There are obtained 66.1 g of 4-bromo-N-[2-(3-methoxy-phenyl)-ethyl]-benzamide, MS: m/e 333 (M+, 1 Br).

reactant | 2-(4-methoxyphenyl)-ethylamine | 29.2 ml | COC1=CC=C(C=C1)CCN | C9H13NO
reactant | diisopropylethylamine | 34.2 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 4-bromobenzoyl chloride | 43.9 g | BrC1=CC=C(C(=O)Cl)C=C1 | C7H4BrClO
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | methylene chloride | 500 ml | C(Cl)Cl | CH2Cl2
product | 4-bromo-N-[2-(3-methoxy-phenyl)-ethyl]-benzamide | 66.1 g | BrC1=CC=C(C(=O)NCCC2=CC(=CC=C2)OC)C=C1 | C16H16BrNO2
